US04291034
To a solution of 2.3 g of sodium in 200 ml of ethanol is added 15.7 g of diethylmalonate followed by a suspension of 20 g of 1-(2,4-dichlorophenyl)-1-butene-3-one in 100 ml ethanol. The mixture is heated under reflux for 2 hrs and then concentrated to dryness in vacuo. The solid is partitioned between 200 ml water and 200 ml ether. The ether layer is discarded and 20 ml 50% NaOH is added to the aqueous layer which is heated under reflux for 2 hrs. The mixture is filtered and the filtrate is made strongly acidic pH <2 with concentrated sulfuric acid. The mixture is heated on a steam bath for 2 hrs. The resulting solid is collected, pulverized and suspended in 500 ml of 10N sulfuric acid and heated on a steam bath for 2 hrs and cooled to 0° C. The solid is collected, washed with water and recrystallized from a mixture of dimethylformamide and ethyl acetate. Drying in vacuo at 80° C. for 6 hrs gives 5-(2,4-dichlorophenyl)cyclohexane-1,3dione; mp 192°-196° C.

reactant | sodium | 2.3 g | [Na] | Na
reactant | diethylmalonate | 15.7 g | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | 1-(2,4-dichlorophenyl)-1-butene-3-one | 20 g | ClC1=C(C=CC(=C1)Cl)C=CC(C)=O | C10H8Cl2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-(2,4-dichlorophenyl)cyclohexane-1,3dione | ClC1=C(C=CC(=C1)Cl)C1CC(CC(C1)=O)=O | C12H10Cl2O2
